US04762830
(a) Preparation of the starting material 1,3-dimethyl-5-(4-hydroxy-3-methoxyphenylcarbamoyl)barbituric acid
6.85 g of 1,3-dimethyl-5-ethoxycarbonylbarbituric acid and 4.2 g of 4-hydroxy-3-methoxyaniline are suspended in 60 ml of toluene, and the suspension is heated under reflux for 3 hours, whereupon ethanol escapes. On cooling to room temperature a precipitate forms which is isolated by filtration, washed with ethanol and dried. Yield: 8.3 g (86% of theory). Melting point: 252°-253° C.

reactant | 1,3-dimethyl-5-ethoxycarbonylbarbituric acid | 6.85 g | CN1C(=O)N(C(=O)C(C1=O)C(=O)OCC)C | C9H12N2O5
reactant | 4-hydroxy-3-methoxyaniline | 4.2 g | OC1=C(C=C(N)C=C1)OC | C7H9NO2
reactant | ethanol | C(C)O | C2H6O
solvent | toluene | 60 ml | C1(=CC=CC=C1)C | C7H8
product | 1,3-dimethyl-5-(4-hydroxy-3-methoxyphenylcarbamoyl)barbituric acid | CN1C(=O)N(C(=O)C(C1=O)C(NC1=CC(=C(C=C1)O)OC)=O)C | C14H15N3O6
